US07632833B2
8-Chloro-3-(3-hydroxypropyl)-N-methoxy-N-methyl-3-phenyl-3a,4-dihydro-3H-pyrazolo[5,1-c][1,4]benzoxazine-2-carboxamide (4-3; a racemic mixture, 37 mg, 86 μmol) was dissolved in anhydrous THF (1 mL) and cooled to −78° C. Methylmagnesium bromide (0.25 mL, 258 μmol) was added and the reaction stirred to 25° C. An additional portion of MeMgBr (0.16 mL, 165 mmol) was added and the reaction stirred 1 h. Upon completion the reaction was quenched by the addition of NH4CL (1 mL) and extracted with EtOAc (3×5mL). The combined organic extracts were dried (MgSO4), filtered and concentrated. Flash column chromatography (ISCO Redisep 0-100% EtOAc/hexanes gradient) provided 1-[8-chloro-3-(3-hydroxypropyl)-3-phenyl-3a,4-dihydro-3H-pyrazolo[5,1-c][1,4]benzoxazin-2-yl]ethanone (4-4; a racemic mixture) and (4-10; a racemic mixture) as a side product. 1H NMR (300 MHz, CDCl3) δ 7.56 (d, J=2.4 Hz 1H), 7.32-7.20 (m, 3H), 7.07 (m, 2H), 6.85 (dd, J=8.4, 2.4 Hz, 1H), 6.77 (d, J=8.4 Hz, 1H), 4.15 (dd, J=11.3, 3.8 Hz, 1H), 3.73 (dd, J=11.0, 3.8 Hz, 1H), 3.73 (br s, 1H), 2.93 (t, J=11.0 Hz, 1H), 2.56 (dt, J=12.2, 4.0 Hz, 1H), 2.56 (s, 3H), 2.42 (dt, J=12.9, 4.6 Hz, 1H), 1.72 (m, 1H), 1.40 (m, 3H); MS (M+H+, C21H21ClN2O3) 385.4 found 385.9 required.

reactant | 8-Chloro-3-(3-hydroxypropyl)-N-methoxy-N-methyl-3-phenyl-3a,4-dihydro-3H-pyrazolo[5,1-c][1,4]benzoxazine-2-carboxamide | ClC=1C=CC2=C(N3C(CO2)C(C(=N3)C(=O)N(C)OC)(C3=CC=CC=C3)CCCO)C1 | C22H24ClN3O4
reactant | Methylmagnesium bromide | 258 μmol, 0.25 mL | C[Mg]Br
reactant | MeMgBr | 165 mmol, 0.16 mL | C[Mg+].[Br-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-[8-chloro-3-(3-hydroxypropyl)-3-phenyl-3a,4-dihydro-3H-pyrazolo[5,1-c][1,4]benzoxazin-2-yl]ethanone | ClC=1C=CC2=C(N3C(CO2)C(C(=N3)C(C)=O)(C3=CC=CC=C3)CCCO)C1 | C21H21ClN2O3
